US09284284B2
a) 5-(5-Bromo-2-fluoro-phenyl)-5-methyl-morpholine-3-thione
To a solution of 5-(5-bromo-2-fluoro-phenyl)-5-methyl-morpholin-3-one (CAS registry 1266784-13-7) (26.0 g, 82 mmol) in THF (520 ml) was added Lawesson's reagent (33.91 g, 82 mmol) and the reaction was heated for 2 h at reflux, then stirred for 14 h at rt. The solvent was evaporated and the title compound was prepurified by FC (toluene). Remaining impurities were removed by washing the toluene fractions with sat. aq. NaHCO3 soln. and water, the combined organic layers were dried over Na2SO4 and concentrated. Crude product was washed with MTBE and used in the next step without further purification.

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-methyl-morpholin-3-one | 82 mmol, 26.0 g | BrC=1C=CC(=C(C1)C1(COCC(N1)=O)C)F | C11H11BrFNO2
reactant | Lawesson's reagent | 82 mmol, 33.91 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 520 ml | C1CCOC1 | C4H8O
product | 5-(5-Bromo-2-fluoro-phenyl)-5-methyl-morpholine-3-thione | BrC=1C=CC(=C(C1)C1(COCC(N1)=S)C)F | C11H11BrFNOS
